US05202356
P-Aminobenzonitrile (11.8 g) (ex Aldrich) in dry chloroform (250 ml) under nitrogen was treated with sulphuryl chloride (4.05 g) (ex BDH) maintaining reaction temperature below 35°. After 2 hours at reflux the mixture was poured onto ice and made alkaline with 2M sodium hydroxide solution. Work up in the usual manner gave 3,5-dichloro-4-aminobenzonitrile (18.2 g) NMR 1H 7.35(2H,s), 4.70(2H,bs).

reactant | P-Aminobenzonitrile | 11.8 g | C1=CC(=CC=C1C#N)N | C7H6N2
reactant | sulphuryl chloride | 4.05 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dichloro-4-aminobenzonitrile | 18.2 g | ClC=1C=C(C#N)C=C(C1N)Cl | C7H4Cl2N2
